### ISSUE TITLE
fun_induction produces goals with dangling fvars

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#10683]
This was reported by @b-mehta:

```lean
def orderedInsert (r : α → α → Prop) [DecidableRel r] (a : α) : List α → List α
  | [] => [a]
  | b :: l => if r a b then a :: b :: l else b :: orderedInsert r a l

/--
error: unsolved goals
case case1
x : Nat
⊢ orderedInsert (fun x1 x2 => x1 ≥ x2) x [] = []

case case2
b✝ : Nat
l✝ : List Nat
h✝ : _fvar.515 ≥ b✝
x : Nat
⊢ orderedInsert (fun x1 x2 => x1 ≥ x2) x (b✝ :: l✝) = []

case case3
b✝ : Nat
l✝ : List Nat
h✝ : ¬_fvar.515 ≥ b✝
ih1✝ : ∀ {x : Nat}, orderedInsert (fun x1 x2 => x1 ≥ x2) x l✝ = []
x : Nat
⊢ orderedInsert (fun x1 x2 => x1 ≥ x2) x (b✝ :: l✝) = []
-/
#guard_msgs in
example {x} {l : List Nat} : (orderedInsert (· ≥ ·) x) l = [] := by
  fun_induction orderedInsert generalizing x

```

Note that it is `generalizing` a variable that is also a target.

### Versions

Lean 4.25.0-nightly-2025-10-06

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
The issue is with `induction`, probably since #8096.
```
def orderedInsert (a : Nat) : List Nat → List Nat
  | [] => [a]
  | b :: l => if a < b then a :: b :: l else b :: orderedInsert a l

/--
error: unsolved goals
case case1
x : Nat
⊢ orderedInsert x [] = []

case case2
b✝ : Nat
l✝ : List Nat
h✝ : _fvar.252 < b✝
x : Nat
⊢ orderedInsert x (b✝ :: l✝) = []

case case3
b✝ : Nat
l✝ : List Nat
h✝ : ¬_fvar.252 < b✝
ih1✝ : ∀ {x : Nat}, orderedInsert x l✝ = []
x : Nat
⊢ orderedInsert x (b✝ :: l✝) = []
-/
#guard_msgs in
example : orderedInsert  x l = [] := by
  induction l using orderedInsert.induct_unfolding (a := x) generalizing x 
```

**Comment by nomeata** [comment]
Actually this bug predates #8096, I think:
```
axiom foo_induct (n : Nat) {motive : Nat → Prop} (h : ∀ m, n = m): ∀ m, motive m

/--
error: unsolved goals
case h
m✝ : Nat
⊢ _fvar.289 = m✝
-/
#guard_msgs in
example (n m : Nat) : n = m := by
  induction m using foo_induct (n := n) generalizing n
```
